US03962445
7-Chloro-4-hydroxy-3-nitrocarbostyril
A suspension of 7-chloro-4-hydroxycarbostyril (0.5g.) in glacial acetic acid (4 ml.) was nitrated with concentrated nitric acid (0.7ml.) at 100°C and worked up in the usual manner to give the title compound, m.p. (aqueous ethanol) 166°-167°C.

reactant | 7-chloro-4-hydroxycarbostyril | 0.5g | ClC1=CC=C2C(=CC(NC2=C1)=O)O | C9H6ClNO2
reactant | nitric acid | 0.7ml | [N+](=O)(O)[O-] | HNO3
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 7-Chloro-4-hydroxy-3-nitrocarbostyril | ClC1=CC=C2C(=C(C(NC2=C1)=O)[N+](=O)[O-])O | C9H5ClN2O4
